US09216173B2
Dioxane (25 ml) was added to a nitrogen purged flask containing tert-butyl (1S,2R)-2-(5-bromo-6-cyanopyridin-3-ylamino)cyclohexylcarbamate (PrepEx 1.1) (2500 mg, 6.32 mmol), 5-bromo-6-methylpyridin-2-amine (1540 mg, 8.22 mmol), Xantphos (732 mg, 1.27 mmol), Pd2(dba)3 (579 mg, 0.632 mmol) and cesium carbonate (3090 mg, 9.49 mmol). Nitrogen was bubbled through the reaction mixture for 5 minutes, and the reaction mixture was heated at 85° C. for 4.5 hours. The reaction was then cooled to room temperature and poured into 10% aq. KHSO4 (300 mL). The pH was adjusted to 4 with 10% aq. KHSO4, and the mixture was sonicated. The solids were collected by filtration, dried under nitrogen, and diluted with DCM (50 mL). Sonication of the resulting suspension afforded a thick slurry. The solids were collected by filtration, and washed with DCM (10 mL) and hexanes (20 mL) to afford tert-butyl (1S,2R)-2-(5-(5-bromo-6-methylpyridin-2-ylamino)-6-cyanopyridin-3-ylamino)cyclohexylcarbamate. MS ESI calc'd. for C23H30BrN6O2 [M+H]+ 501 and 503 found 501 and 503. 1H NMR (500 MHz, CD3OD) δ 7.78 (s, 1H), 7.73-7.71 (m, 2H), 7.75 (d, J=8.8 Hz, 1H), 3.85 (br s, 1H), 3.75 (br s, 1H), 2.54 (s, 3H), 1.90-1.10 (m, 8H), 1.34 (s, 9H).

reactant | tert-butyl (1S,2R)-2-(5-bromo-6-cyanopyridin-3-ylamino)cyclohexylcarbamate | 6.32 mmol, 2500 mg | BrC=1C=C(C=NC1C#N)N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O | C17H23BrN4O2
reactant | 5-bromo-6-methylpyridin-2-amine | 8.22 mmol, 1540 mg | BrC=1C=CC(=NC1C)N | C6H7BrN2
reactant | Xantphos | 1.27 mmol, 732 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 9.49 mmol, 3090 mg | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | Pd2(dba)3 | 0.632 mmol, 579 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Dioxane | 25 ml | O1CCOCC1 | C4H8O2
product | tert-butyl (1S,2R)-2-(5-(5-bromo-6-methylpyridin-2-ylamino)-6-cyanopyridin-3-ylamino)cyclohexylcarbamate | BrC=1C=CC(=NC1C)NC=1C=C(C=NC1C#N)N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O | C23H29BrN6O2
